US05712416
A solution of 13.8 g (100 mmol) of 2,3-dimethylhydroquinone in 500 ml of acetic acid and 28.4 g (250 mmol) of 30% by weight aqueous hydrogen peroxide were simultaneously added dropwise to a stirred solution of 0.68 g (2.0 mmol) of iron 5,14-dihydrodibenzo[b,i][5,9,14,18]tetraaza[14]annulene, 2.52 g (2.0 mmol) of a 40% by weight aqueous solution of pentasodium diethylenetriaminepentaacetate and 0.5 mi of concentrated sulfuric acid in 50 ml of acetic acid at 40° C. with cooling. The mixture was then stirred for 15 min and subsequently subjected to a steam distillation. The distillate was extracted three times with a total of 400 ml of methylene chloride. The organic phase was shaken with aqueous sodium bicarbonate solution and then with water, separated from the aqueous phase, dried over magnesium sulfate, filtered and evaporated to dryness to yield 11.8 g (87%) of 2,3-dimethylbenzoquinone in the form of a yellow powder. Melting point 57°-59° C.

reactant | 2,3-dimethylhydroquinone | 100 mmol, 13.8 g | CC1=C(O)C=CC(=C1C)O | C8H10O2
reactant | hydrogen peroxide | OO | H2O2
reactant | pentasodium diethylenetriaminepentaacetate | C(CN(CC(=O)[O-])CC(=O)[O-])N(CCN(CC(=O)[O-])CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+].[Na+].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2,3-dimethylbenzoquinone | 11.8 g, 87% | CC=1C(C=CC(C1C)=O)=O | C8H8O2
